US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl-2-[2-(2-pyridinecarbonylamino)ethylthio]acetamide
There was suspended 1.38 g (0.011 mol) of picolinic acid in 50 ml of dichloromethane and added 1.68 g (0.011 mol) of HOBt and 2.26 g (0.011 mol) of DCC under cooling with ice and the mixture was stirred for 30 minutes. Thereto was added 4.0 g (0.011 mol) of N-3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide and the mixture was stirred for 18 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with 10% aqueous solution of sodium hydroxide and with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to give 1.38 g of the titled compound as oily matter.

reactant | picolinic acid | 0.011 mol, 1.38 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | HOBt | 0.011 mol, 1.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.011 mol, 2.26 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-(2-aminoethylthio)acetamide | NCCSCC(=O)N | C4H10N2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[3-(piperidinomethyl)phenoxy]propyl-2-[2-(2-pyridinecarbonylamino)ethylthio]acetamide | 1.38 g | N1(CCCCC1)CC=1C=C(OCCCC(C(=O)N)SCCNC(=O)C2=NC=CC=C2)C=CC1 | C25H34N4O3S
